US04777172
Piperidine (6.17 ml) in dichloromethane (40 ml) was added dropwise to a solution of 2-methoxymethyl-4-chloropyrimidine (4.71 g) in dichloromethane (40 ml). After standing overnight at room temperature the mixture was heated under reflux for 1 hour. After cooling the solution was washed with water, dried and stripped. The residue was chromatographed (silica gel, CHCl3) to give 2-methoxymethyl-4-piperidinopyrimidine (4.49 g) as an oil.

reactant | Piperidine | 6.17 ml | N1CCCCC1 | C5H11N
reactant | 2-methoxymethyl-4-chloropyrimidine | 4.71 g | COCC1=NC=CC(=N1)Cl | C6H7ClN2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 2-methoxymethyl-4-piperidinopyrimidine | 4.49 g | COCC1=NC=CC(=N1)N1CCCCC1 | C11H17N3O
